US08614327B2
A mixture of N,N′-(4-methyl-1,3-phenylene)bis(2,2,2-trifluoroacetamide) (1.02 g, 3.25 mmol), NBS (0.80 g, 4.5 mmol) in CCl4 (6 mL) was stirred overnight at room temperature under irradiation of a 300 W lamp. The precipitate formed was collected by filtration and washed with CCl4. The crude residue was taken up in dry toluene (9.7 mL) in the presence of PPh3 (1.3 g, 4.96 mmol) and stirred at 60° C. for 16 h. The phosphonium precipitate was collected by filtration, then dissolved in dry DMF (10 mL) and stirred at 165° C. until complete conversion to the product (6.5 h). The solvent was removed in vacuo and the residue obtained was purified by silica gel column chromatography (5-25% AcOEt in hexanes) to obtain 2,2,2-trifluoro-N-(2-(trifluoromethyl)-1H-indol-6-yl)acetamide (243 mg, 25%). LC/MS: m/z 297.3 (M+H)+ at 1.68 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | N,N′-(4-methyl-1,3-phenylene)bis(2,2,2-trifluoroacetamide) | 3.25 mmol, 1.02 g | CC1=C(C=C(C=C1)NC(C(F)(F)F)=O)NC(C(F)(F)F)=O | C11H8F6N2O2
reactant | NBS | 4.5 mmol, 0.80 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | PPh3 | 4.96 mmol, 1.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CCl4 | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 9.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-trifluoro-N-(2-(trifluoromethyl)-1H-indol-6-yl)acetamide | 243 mg, 25% | FC(C(=O)NC1=CC=C2C=C(NC2=C1)C(F)(F)F)(F)F | C11H6F6N2O
